US06657060B2
In analogy to example 12c), by heating (E)-2-(2-benzo[1,3]dioxol-5-yl-vinyl)-6-methyl-pyrimidin-4-ol (0.5 g, 1.95 mmol) in POCl3 (3.5 ml, 39 mmol) at 130° C. for 4.5 h there was obtained (E)-2-(2-benzo [1,3]dioxol-5-yl-vinyl)-4-chloro-6-methyl-pyrimidine (0.48 g, 90%) as a yellow solid. ISP mass spectrum, m/e: 275.2 (M+1 calculated for C14H11Cl2N2: 275).

reactant | (E)-2-(2-benzo[1,3]dioxol-5-yl-vinyl)-6-methyl-pyrimidin-4-ol | 1.95 mmol, 0.5 g | O1COC2=C1C=CC(=C2)/C=C/C2=NC(=CC(=N2)O)C | C14H12N2O3
reactant | POCl3 | 39 mmol, 3.5 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-2-(2-benzo [1,3]dioxol-5-yl-vinyl)-4-chloro-6-methyl-pyrimidine | 0.48 g, 90% | O1COC2=C1C=CC(=C2)/C=C/C2=NC(=CC(=N2)Cl)C | C14H11ClN2O2
